US04614745
6.15 g (0.0193 mol) of N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl]-oxamide methyl ester are stirred with a solution of 22.6 ml of 1N sodium hydroxide solution in 147 ml of ethanol and 970 ml of water for 2 hours at 70°. A small degree of cloudiness is then removed by filtration and the filtrate is acidified with hydrochloric acid, a crystalline product being precipitated. After cooling, the crystals are filtered with suction and washed first with water, then with ethanol and subsequently with ether. After drying there is obtained N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl)-oxalic acid monoamide having a melting point of 208° (decomposition).

reactant | N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl]-oxamide methyl ester | 0.0193 mol, 6.15 g | CN(C(=O)C(=O)N)C1=CSC2=C(C1=O)C=C(C=C2)CCCC | C16H18N2O3S
reactant | sodium hydroxide | 1N, 22.6 ml | [OH-].[Na+]
solvent | ethanol | 147 ml | C(C)O | C2H6O
solvent | water | 970 ml | O | H2O
product | N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl)-oxalic acid monoamide | C(CCC)C=1C=CC2=C(C(C(=CS2)NC(C(=O)O)=O)=O)C1 | C15H15NO4S
